US04431808
A solution of a Grignard reagent is prepared by a reaction of 12.0 g of 4-chloro-1-methylpiperidine with 2.4 g of magnesium in 70 ml of tetrahydrofuran and is treated dropwise for 10 minutes with a solution of 21.2 g of 2-(2,5-difluorophenylthio)-5(trifluoromethylthio)benzaldehyde in 40 ml of tetrahydrofuran. The mixture is refluxed for 5 hours and, after cooling, decomposed with a 20% ammonium chloride solution and extracted with benzene. The extract is washed with water, dried with potassium carbonate and evaporated. There are obtained 26.9 g of crude oily α-(1-methyl-4-piperidyl)-2-(2,5-difluorophenylthio)-5-(trifluoromethylthio)benzyl alcohol which is used in this state for further reaction.

reactant | 4-chloro-1-methylpiperidine | 12.0 g | ClC1CCN(CC1)C | C6H12ClN
reactant | magnesium | 2.4 g | [Mg] | Mg
reactant | 2-(2,5-difluorophenylthio)-5(trifluoromethylthio)benzaldehyde | 21.2 g | FC1=C(C=C(C=C1)F)SC1=C(C=O)C=C(C=C1)SC(F)(F)F | C14H7F5OS2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | α-(1-methyl-4-piperidyl)-2-(2,5-difluorophenylthio)-5-(trifluoromethylthio)benzyl alcohol | 26.9 g | CN1CCC(CC1)C(C1=C(C=CC(=C1)SC(F)(F)F)SC1=C(C=CC(=C1)F)F)O | C20H20F5NOS2
